US05587504
Synthesis of 4,4-dimethyl-2-(4'-p-toluenesulfonyloxymethylbiphenyl-2-yl)oxazoline
0.34 g (8.5 mmol) of a 60% oily sodium hydride was suspended in tetrahydrofuran (20 ml). A solution of 2.0 g (7.1 mmol) of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline in tetrahydrofuran (30 ml) was dropwise added thereto at room temperature, followed by further stirring at room temperature for one hour. After the reaction liquid was cooled with ice, a solution of 1.6 g (8.4 mmol) of p-toluenesulfonyl chloride in tetrahydrofuran (20 ml) was dropwise added thereto. After stirring for 3 hours as such, the reaction liquid was poured into a saturated aqueous solution of ammonium chloride, followed by the extraction with chloroform. After washing with water and drying, vacuum concentration was conducted. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 1.7 g of the title compound as an oil (yield 55%).

reactant | sodium hydride | [H-].[Na+]
reactant | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline | 7.1 mmol, 2.0 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
reactant | p-toluenesulfonyl chloride | 8.4 mmol, 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4,4-dimethyl-2-(4'-p-toluenesulfonyloxymethylbiphenyl-2-yl)oxazoline | 1.7 g, yield 55% | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C25H25NO4S
